US04021481
(a) N-(3,5-dinitrobenzoyl)-N-methylglucamine
N-Methylglucamine (21.4 g, 0.11 mol) was suspended in DMF (200 ml). Triethylamine (11.5 g, 0.11 mol) was added. To this suspension was at 4° added by stirring 3,5-dinitrobenzoyl chloride (23.0 g, 0.1 mol) dissolved in dioxane (100 ml). The temperature rose to 10°. The stirring was continued at this temperature for 2 hours followed by 16 hours at room temperature. Triethylamine hydrochloride was filtered off and the DMF distilled off from the filtrate. The residue, a pale brown oil, was dissolved in water (200 ml), the pH adjusted to 1 and the solution extracted with phenol according to standard procedure. The final aqueous solution was treated with charcoal at room temperature for 24 hours and the filtrate evaporated to dryness in vacuo. The residue -- a pale brown oil -- was further dried in vacuo at 65°. Yield: 25.5 g (65%). The IR-spectrum showed a characteristic carbonyl absorption band at 1670 -- 1620 cm -1. Rf value: 0.55 - 0.6 (paper, n-BuOH: EtOH: NH3 : H2O= 4 : 1 : 2 : 1).

reactant | N-Methylglucamine | 0.11 mol, 21.4 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | Triethylamine | 0.11 mol, 11.5 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dinitrobenzoyl chloride | 0.1 mol, 23.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-(3,5-dinitrobenzoyl)-N-methylglucamine | [N+](=O)([O-])C=1C=C(C(=O)N(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C)C=C(C1)[N+](=O)[O-] | C14H19N3O10
